US07888364B2
220 mg of methyl 4-(hydroxymethyl)-2-methylbenzoate was cooled to 0° C. in 5 mL of DCM before adding 260 mg of Triphenylphosphine and 395 mg of NBS. The reaction was concentrated and directly purified via ISCO Combi-Flash to give pure methyl 4-(bromomethyl)-2-methylbenzoate.

reactant | methyl 4-(hydroxymethyl)-2-methylbenzoate | 220 mg | OCC1=CC(=C(C(=O)OC)C=C1)C | C10H12O3
reactant | Triphenylphosphine | 260 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NBS | 395 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(bromomethyl)-2-methylbenzoate | BrCC1=CC(=C(C(=O)OC)C=C1)C | C10H11BrO2
